US04590201
A stirred 0° C. solution of 2,6-dichloro-4-methylbenzamide (8.6 g, 42. mmol) in 2:1 (v/v) acetic acid-concentrated hydrochloric acid (165 ml) was treated dropwise with a solution of sodium nitrite (19.0 g, 275 mmol) in water (42 ml). The mixture was stirred 30 minutes at 5° C., slowly warmed to 85° C., and kept 1 hour. The mixture was cooled, concentrated under vacuum, and treated with cold water (50 ml). The product was filtered, washed twice with cold water, and dried 16 hours at 50° C. over phosphorus pentoxide under vacuum to provide 7.15 g (83%) of 2,6-dichloro-4-methylbenzoic acid, m.p. 139°-145° C.

reactant | 2,6-dichloro-4-methylbenzamide | 8.6 g | ClC1=C(C(=O)N)C(=CC(=C1)C)Cl | C8H7Cl2NO
reactant | sodium nitrite | 275 mmol, 19.0 g | N(=O)[O-].[Na+]
solvent | acetic acid | 165 ml | C(C)(=O)O | C2H4O2
solvent | water | 42 ml | O | H2O
product | 2,6-dichloro-4-methylbenzoic acid | 7.15 g, 83% | ClC1=C(C(=O)O)C(=CC(=C1)C)Cl | C8H6Cl2O2
